US06063782
1-(2-Butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=98/2) was prepared as pale brown crystals in 59.3% yield in a similar procedure to that described in. Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=94/6) and 4-fluorobenzyl alcohol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 1-(2-Butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 59.3% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | C19H20FN3O
